US08309718B2
Step 1: 3-cyclobutyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (9.63 g, 0.0496 mol) in acetonitrile (124 mL, 2.37 mol) was added (E)-3-cyclobutylacrylonitrile (5.30 g, 0.0495 mol), followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (3.70 mL, 0.0248 mol). The resulting mixture was stirred at room temperature overnight, then evaporated to dryness. The mixture was purified on silica gel, eluting with 0 to 80% EtOAc in hexanes, to give the desired product as a racemic mixture (11.2 g, 75.2%). LCMS (M+H) 302.4.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0496 mol, 9.63 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | acetonitrile | 2.37 mol, 124 mL | C(C)#N | C2H3N
reactant | (E)-3-cyclobutylacrylonitrile | 0.0495 mol, 5.30 g | C1(CCC1)/C=C/C#N | C7H9N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.0248 mol, 3.70 mL | N12CCCCCC2=NCCC1 | C9H16N2
product | 3-cyclobutyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile | C1(CCC1)C(CC#N)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H24BN3O2
